US09334290B2
A mixture of 3-(3-bromo-2-chlorophenyl)-8-fluoro-1-methylquinazoline-2,4(1H,3H)-dione (150 mg, 0.391 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (129 mg, 0.508 mmol), potassium acetate (96 mg, 0.978 mmol) and dioxane (8 mL) was bubbled with nitrogen for 10 min and treated with PdCl2(dppf) DCM adduct (16 mg, 0.020 mmol). The mixture was heated at 90° C. for 16 h, then was cooled and partitioned between EtOAc and water. The organic phase was dried and concentrated, and the residue was purified by column chromatography on silica gel (12 g), eluting with EtOAc-hexanes (gradient from 0-50%), to give 3-(2-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-8-fluoro-1-methylquinazoline-2,4(1H,3H)-dione as a white glassy solid (52 mg, 31% yield). Mass spectrum m/z 431 (M+H)+. 1H NMR (400 MHz, chloroform-d) δ 8.14-8.05 (m, 1H), 7.90-7.82 (m, 1H), 7.51-7.35 (m, 3H), 7.26-7.19 (m, 1H), 3.86 (d, J=8.1 Hz, 3H), 1.36 (s, 12H).

reactant | 3-(3-bromo-2-chlorophenyl)-8-fluoro-1-methylquinazoline-2,4(1H,3H)-dione | 0.391 mmol, 150 mg | BrC=1C(=C(C=CC1)N1C(N(C2=C(C=CC=C2C1=O)F)C)=O)Cl | C15H9BrClFN2O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.508 mmol, 129 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.978 mmol, 96 mg | C(C)(=O)[O-].[K+]
catalyst | PdCl2(dppf) DCM | 0.020 mmol, 16 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 3-(2-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-8-fluoro-1-methylquinazoline-2,4(1H,3H)-dione | 52 mg, 31% yield | ClC1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)N1C(N(C2=C(C=CC=C2C1=O)F)C)=O | C21H21BClFN2O4
